US06787652B1
N-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-hydroxy-phenyl}-4-fluoro-benzenesulfonamide
To a cooled (0° C.), stirred solution of N-{5-[2,6-dichloro-4-(3,5-dioxo4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-4-fluoro-benzenesulfonamide (96 mg) in dichloromethane (5 mL) was added boron tribromide (64 μL) and the resulting solution was allowed to stir at ambient temperature for 4 h. The reaction mixture was poured over ice, stirred for 0.5 h and extracted with ethyl acetate. The organic phase was dried (Na2SO4), concentrated in vacuo and flash chromatographed on silica gel (40% acetone/hexanes) to afford the title compound of this EXAMPLE as a colorless foam, 68 mg. m.p. 222-225° C. (dec), MS Calc.:539.2 Found:536.8.

reactant | N-{5-[2,6-dichloro-4-(3,5-dioxo4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-4-fluoro-benzenesulfonamide | 96 mg | ClC1=C(OC=2C=CC(=C(C2)NS(=O)(=O)C2=CC=C(C=C2)F)OC)C(=CC(=C1)N1N=CC(NC1=O)=O)Cl | C22H15Cl2FN4O6S
reactant | boron tribromide | 64 μL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-hydroxy-phenyl}-4-fluoro-benzenesulfonamide | ClC1=C(OC=2C=CC(=C(C2)NS(=O)(=O)C2=CC=C(C=C2)F)O)C(=CC(=C1)N1N=CC(NC1=O)=O)Cl | C21H13Cl2FN4O6S
